US08304419B2
A solution of methyl 4-bromo-1H-imidazole-5-carboxylate (0.708 g, 3.5 mmol) was stirred in a solution of MeOH (20 mL) and 2N NaOH (20 mL, 40 mmol) at 40° C. for 4 h, then additional 2N NaOH (20 mL, 40 mmol) was added and the reaction mixture kept at 40° C. for another hour. The reaction mixture was then acidified by addition of 1M HCl (100 mL) and extracted with EtOAc. The organic extracts were dried (Na2SO4), and the solvent was evaporated to provide crude 4-bromo-1H-imidazole-5-carboxylic acid (0.156 g, 24%) as a white solid which was used without further purification.

reactant | methyl 4-bromo-1H-imidazole-5-carboxylate | 3.5 mmol, 0.708 g | BrC=1N=CNC1C(=O)OC | C5H5BrN2O2
reactant | NaOH | 40 mmol, 2N, 20 mL | [OH-].[Na+]
reactant | NaOH | 40 mmol, 2N, 20 mL | [OH-].[Na+]
reactant | HCl | 1M, 100 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 4-bromo-1H-imidazole-5-carboxylic acid | 0.156 g, 24% | BrC=1N=CNC1C(=O)O | C4H3BrN2O2
